US07834039B2
To a microwave vial charged with 3-chloro-N-hydroxy-4-isopropoxy-benzamidine (75 mg, 0.328 mmol), 3-methyl-isonicotinic acid (41 mg, 0.298 mmol), HOBt (46 mg, 0.298 mmol), PS-carbodiimide (720 mg, 0.894 mmol, loading 1.24 mmol/g) was added acetonitrile (3.5 mL) and diisopropylethylamine (156 μL, 0.894 mmol). The reaction vial was capped and heated at about 160° C. for about 30 minutes in a Biotage microwave. The reaction mixture was filtered and the resin was washed with acetonitrile (4 mL). Filtrate was concentrated to dryness. The crude product was purified via reverse phase HPLC (30-90% acetonitrile, 30 minute ramp) to give 10.2 mg (10%) of 4-[3-(3-chloro-4-isopropoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-3-methyl-pyridine.

reactant | 3-chloro-N-hydroxy-4-isopropoxy-benzamidine | 0.328 mmol, 75 mg | ClC=1C=C(C(=N)NO)C=CC1OC(C)C | C10H13ClN2O2
reactant | 3-methyl-isonicotinic acid | 0.298 mmol, 41 mg | CC1=C(C(=O)O)C=CN=C1 | C7H7NO2
reactant | HOBt | 0.298 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | carbodiimide | 0.894 mmol, 720 mg | N=C=N | CH2N2
reactant | diisopropylethylamine | 0.894 mmol, 156 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 4-[3-(3-chloro-4-isopropoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-3-methyl-pyridine | 10.2 mg, 10% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=C(C=NC=C1)C | C17H16ClN3O2
